US07041696B2
Preparation of (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-hydroxy-5-oxo-tetrahydro-furan-3-yl)-amide (16):
6-[(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide, 15, (1.42 g, 2.80 mmol) is stirred in a solution of trifluroacetic acid 5 mL acetonitrile 5 mL, and water 2.5 mL for 2 hours. Solvents are removed in vacuo and the resulting residue dissolved in ethyl acetate and re-concentrated to remove any excess TFA. The crude product is purified over silica (ethyl acetate:0.1% acetic acid,) to afford 1.18 g (78% yield) of the desired product as a yellow foam. 1H NMR (CDCl3): δ 9.30 (m, 1H), 8.85 (d, 7.6 Hz, 1H), 8.48 (d, J=5.4 Hz, 1H), 7.87–7.34 (m, 6H), 5.92–5.71 (m, 3H), 5.54 (m, 1H), 4.71–4.35 (m, 3H), 3.03 (m, 4H), 2.43 (m, 3H), 2.19 (m, 2H), 1.98 (m, 1H). 13C NMR (CDCl3): δ 173.9, 172.5, 171.4, 165.9, 147.9, 140.7, 137.6, 131.4, 130.8, 128.9, 127.5, 127.2, 125.6, 124.9, 61.7, 59.1, 50.4, 34.2, 33.4, 32.3, 27.0. ESI MS 479.11 (M+H). HRMS calc. 479.1931, found 479.1941.

reactant | 6-[(Isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-ethoxy-5-oxo-tetrahydro-furan-3-yl)-amide | C(C)OC1OC(CC1NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=NC=CC1=CC=CC=C21)=O)=O | C27H30N4O6
reactant | trifluroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 2.5 mL | O | H2O
product | (3S,6S,10aS)-6-[(isoquinoline-1-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (2-hydroxy-5-oxo-tetrahydro-furan-3-yl)-amide | 1.18 g, 78% yield | OC1OC(CC1NC(=O)[C@@H]1CC[C@@H]2N1C([C@H](CC=CC2)NC(=O)C2=NC=CC1=CC=CC=C21)=O)=O | C25H26N4O6
